US05948820
(4) 4-(2-(2-Benzyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone
To a solution of ethyl 4-(2-benzyloxyphenyl)-2-methoxycarbonylamino-2-methylbutanoate (5.2 g) in tetrahydrofuran (135 ml), under a nitrogen atmosphere, lithium borohydride (0.59 g) was added and the mixture was refluxed under heating for an hour. Then, a 2N hydrochloric acid (6.6 ml) was added thereto and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with an aqueous sodium hydrogencarbonate solution and a saturated brine and dried over sodium sulfate. The solvent was distilled away under reduced pressure to give the subject compound (4.6 g).

reactant | ethyl 4-(2-benzyloxyphenyl)-2-methoxycarbonylamino-2-methylbutanoate | 5.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC(C(=O)OCC)(C)NC(=O)OC | C22H27NO5
reactant | lithium borohydride | 0.59 g | [BH4-].[Li+]
reactant | hydrochloric acid | 2N, 6.6 ml | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 135 ml | O1CCCC1 | C4H8O
product | 4-(2-(2-Benzyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone | 4.6 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC1(NC(OC1)=O)C | C19H21NO3
